US07842685B2
A mixture of 10% palladium on carbon, 50% water wet (0.33 g, 0.31 mmol) and 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-phenylcyclohex-3-enyl)thiazolo[5,4-b]pyridine (0.492 g, 1.0 mmol) under nitrogen was treated with 10 mL THF and exposed to 1 atm H2 gas via balloon. The reaction mixture was allowed to stir 36 h, then flush with nitrogen, filter, rinsing with DCM. The filtrate was concentrated in vacuo to give 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-phenylcyclohexyl)thiazolo[5,4-b]pyridine as a light yellow solid. MS (ESI) m/z: Calculated: 474.2; Observed: 475.1 (M++1).

reactant | water | 0.31 mmol, 0.33 g | O | H2O
reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-phenylcyclohex-3-enyl)thiazolo[5,4-b]pyridine | 1.0 mmol, 0.492 g | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC=CCC1)C1=CC=CC=C1)F | C28H25FN2O2S
catalyst | palladium on carbon | [Pd] | Pd
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-phenylcyclohexyl)thiazolo[5,4-b]pyridine | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CCCCC1)C1=CC=CC=C1)F | C28H27FN2O2S
